US03997585
A 75% dispersion of sodium hydride (8.45 g.; 0.20 mol.) is added to a solution of ethylene glycol (3.1 g.; 0.05 mol.) in 1,2-dimethoxyethane (100 ml.). The resulting suspension is stirred at room temperature for two hours and then cooled to +4° C. Sulfamoyl chloride (20.79 g.; 0.18 mol.) is dissolved in 1,2-dimethoxyethane (400 ml.) and added dropwise to the solution with stirring. The reaction mixture is stirred at +4° C for an additional 24 hours. A precipitate forms which is filtered off and the filtrate is concentrated. The residue is partitioned between heptane and methanol, and the methanol solution is concentrated to a syrup which crystallizes from ethyl acetate to yield 6.1 g. (58%) of 1,2-bis-O-sulfamyl-1,2-ethanediol, m.p. 96.5°-99° C. When in the above procedure 1,5-pentanediol is employed in place of ethylene glycol, 1,5-bis-O-sulfamyl-1,5-pentanediol is obtained.

reactant | sodium hydride | 0.20 mol, 8.45 g | [H-].[Na+]
reactant | ethylene glycol | 0.05 mol, 3.1 g | C(CO)O | C2H6O2
reactant | Sulfamoyl chloride | 0.18 mol, 20.79 g | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 1,2-bis-O-sulfamyl-1,2-ethanediol | S(N)(=O)(=O)OCCOS(N)(=O)=O | C2H8N2O6S2
reactant | 1,5-pentanediol | C(CCCCO)O | C5H12O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
product | 1,5-bis-O-sulfamyl-1,5-pentanediol | S(N)(=O)(=O)OCCCCCOS(N)(=O)=O | C5H14N2O6S2
